US04692443
A mixture of 1.1 g (10 mM) of 3,4-diaminopyridine, 1.3 g (10 mM) of thiophene-2-carboxylic acid, and 50 g of polyphosphoric acid was heated at 160° C. for four hours. The reaction mixture was added to 100 g of ice and stirred for fifteen minutes. The precipitated solid was collected by filtration and dried to give 500 mg of 2-(2-thienyl)-1H-imidazolo[4,5-c]pyridine; mp 265°-268° C.

reactant | 3,4-diaminopyridine | 10 mM, 1.1 g | NC=1C=NC=CC1N | C5H7N3
reactant | thiophene-2-carboxylic acid | 10 mM, 1.3 g | S1C(=CC=C1)C(=O)O | C5H4O2S
product | 2-(2-thienyl)-1H-imidazolo[4,5-c]pyridine | 500 mg | S1C(=CC=C1)C=1NC2=C(C=NC=C2)N1 | C10H7N3S
